US04939253
(A) L-Lactic acid, 3-pentyl ester
A mixture of 180 g of L-lactic acid, 528 g of 3-pentanol and 1 ml of conc. H2SO4 was refluxed in a Dean-Stark apparatus, until no more water formed (ca. 3 hours). The mixture was washed with water, NaHCO3 solution and brine, dried (MgSO4) and distilled to yield the title compound, boiling point 79°-81° C. at 15 mm of Hg.

reactant | L-lactic acid | 180 g | C([C@@H](O)C)(=O)O | C3H6O3
reactant | 3-pentanol | 528 g | CCC(CC)O | C5H12O
reactant | H2SO4 | 1 ml | OS(=O)(=O)O | H2O4S
solvent | water | O | H2O
product | L-Lactic acid, 3-pentyl ester | C([C@@H](O)C)(=O)OC(CC)CC | C8H16O3
